US06051586
EXAMPLE 127 1-(4-Amino-phenyl)-4-(3-cyclohexyl-propyl)-1,4-dihydro-tetrazol-5-one
A solution of 1-(3-cyclohexyl-propyl)-4-(4-nitro-phenyl)-1,4-dihydro-tetrazol-5-one (69.6 g, 210 mmol) in a mixture of absolute ethanol (220 mL) and ethyl acetate (300 mL) was added to a 2 L Parr hydrogenation vessel containing Degussa 10% Pd/C (3.48 g). The Parr vessel was shaken at room temperature under a hydrogen atmosphere maintained at 20 psi for 4.5 hours. The mixture was filtered through Celite and concentrated in vacuo to a light yellow oil which spontaneously crystallized to afford a light brown crystalline solid (63.5 g, 98%). Mp 64-69° C.; 1H NMR (CDCl3, 300 MHz) δ 7.64 (d, 8.8 Hz, 2 H), 6.78 (d, 9.2 Hz, 2 H), 3.98 (t, 7.0 Hz, 2 H), 1.88 (m, 2 H), 1.72-1.63 (m, 5 H), 1.29-1.11 (m, 6 H), 0.94-0.84 (m, 2 H); MS (EI) m/z 302.2 (MH+); Anal. calcd for C16H23N5O: C, 63.76; H, 7.69; N, 23.24. Found: C, 64.00; H, 7.78; N, 22.87; Rf =0.67 (B).

reactant | 1-(3-cyclohexyl-propyl)-4-(4-nitro-phenyl)-1,4-dihydro-tetrazol-5-one | 210 mmol, 69.6 g | C1(CCCCC1)CCCN1N=NN(C1=O)C1=CC=C(C=C1)[N+](=O)[O-] | C16H21N5O3
reactant | ethanol | 220 mL | C(C)O | C2H6O
catalyst | Pd/C | 3.48 g | [Pd] | Pd
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 1-(4-Amino-phenyl)-4-(3-cyclohexyl-propyl)-1,4-dihydro-tetrazol-5-one | 63.5 g, 98% | NC1=CC=C(C=C1)N1N=NN(C1=O)CCCC1CCCCC1 | C16H23N5O
